US05053432
The ethyl 4-t-butoxycyclohexane-1-carboxylate (1 g), thus obtained, was heated on a steam bath with 2M sodium hydroxide solution (10 ml) to which had been added ethanol (2 ml). After about 4 hours a homogenous solution had formed. The reaction mixture was washed with petroleum ether (60-80) and the aqueous phase acidified with concentrated hydrochloric acid. An oil separated which crystallised on cooling and scratching. The solid was collected and recrystallised from petroleum ether (60-80) to yield 4-t-butoxycyclohexane-1-carboxylic acid, m.pt. 100°-105° C.

reactant | ethyl 4-t-butoxycyclohexane-1-carboxylate | 1 g | C(C)(C)(C)OC1CCC(CC1)C(=O)OCC | C13H24O3
reactant | sodium hydroxide | 2M, 10 ml | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-t-butoxycyclohexane-1-carboxylic acid | C(C)(C)(C)OC1CCC(CC1)C(=O)O | C11H20O3
